US07291635B2
The title A compound, {4-[5-(2,4-dimethoxy-benzyl)-1,1,4-trioxo-1,2,5-thiadiazolidin-2-ylmethyl]-benzyl}-carbamic acid t-butyl ester (400 mg, 0.79 mmol) is dissolved in EtOAc (20 mL) with gentle warming. The cooled solution is saturated with HCl gas and stirred for 30 min. The resulting precipitate is collected by filtration, washed with EtOAc and dried to give 5-(4-aminomethyl-benzyl)-2-(2,4-dimethoxy-benzyl)-1,1-dioxo-1,2,5-thiadiazolidin-3-one hydrochloride: [M+1]+=406.

reactant | {4-[5-(2,4-dimethoxy-benzyl)-1,1,4-trioxo-1,2,5-thiadiazolidin-2-ylmethyl]-benzyl}-carbamic acid t-butyl ester | 0.79 mmol, 400 mg | C(C)(C)(C)OC(NCC1=CC=C(C=C1)CN1S(N(C(C1)=O)CC1=C(C=C(C=C1)OC)OC)(=O)=O)=O | C24H31N3O7S
reactant | HCl | Cl | ClH
solvent | EtOAc | 20 mL | CCOC(=O)C | C4H8O2
product | 5-(4-aminomethyl-benzyl)-2-(2,4-dimethoxy-benzyl)-1,1-dioxo-1,2,5-thiadiazolidin-3-one hydrochloride | Cl.NCC1=CC=C(CN2CC(N(S2(=O)=O)CC2=C(C=C(C=C2)OC)OC)=O)C=C1 | InChI=1S/C19H23N3O5S.ClH/c1-26-17-8-7-16(18(9-17)27-2)12-22-19(23)13-21(28(22,24)25)11-15-5-3-14(10-20)4-6-15;/h3-9H,10-13,20H2,1-2H3;1H
